Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
bacitracin / Aquaphor / adhesive / Latex, Natural Rubber / 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
rash

 
Major Surgical or Invasive Procedure:
I+D ___ of leg hematoma 

 
History of Present Illness:
___ with a past medical history notable for recurrent PEs and 
DVT is currently on Coumadin and who has an IVC filter presents 
with 2 days of right lower extremity pain as well as one day of 
rash. Approximately 2 months ago the patient had 2 basal cell 
carcinomas removed from the right lower extremity. Since that 
time one of the incision site has been oozing from an underlying 
hematoma. The patient reports that she developed right medial 
thigh pain 2 days ago and saw her PCP. She had a DVT study which 
was negative at that time. Today she developed a splotchy rash 
over her right lower extremity and saw her primary care 
physician who started her on Keflex which she has taken one dose 
thus far. The rash rapidly progressed and she saw another 
physician today who told her to come to the emergency department 
for further evaluation and IV antibiotics. She denies any fever, 
chills, chest pain, shortness of breath, abdominal pain, cough, 
nausea, vomiting, dysuria, bowel changes.

In ED pt given vancomycin. ___ duplex without VTE.
 
Past Medical History:
plasminogen activating factor inhibitor (PAF1) complicated by 
recurrent PEs and DVTs s/p IVC filter on anticoagulation
hyperlipidemia
gout

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Vitals: 98.5, 122/65, 81, 20, 94% RA
PAIN:
General: Pleasant Caucasian female in no distress
EYES: anicteric
Lungs: clear bilaterally
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: erythematous rash along right lower extremity overlying 
tibia extending up to knee with no associated joint swelling, 
relatively nontender, 2 X 2 cm fluctuant area overlying tibia 
with wick in place non-draining currently 
Neuro: alert, follows commands

 
Pertinent Results:
___ 07:10PM   GLUCOSE-89 UREA N-17 CREAT-1.0 SODIUM-137 
POTASSIUM-3.6 CHLORIDE-96 TOTAL CO2-29 ANION GAP-16
___ 07:11PM   LACTATE-1.3
___ 07:10PM   WBC-11.3* RBC-4.31 HGB-14.2 HCT-42.7 MCV-99* 
MCH-32.9* MCHC-33.3 RDW-12.8 RDWSD-46.4*
___ 07:10PM   NEUTS-79.3* LYMPHS-12.5* MONOS-6.5 EOS-1.0 
BASOS-0.4 IM ___ AbsNeut-9.00* AbsLymp-1.42 AbsMono-0.74 
AbsEos-0.11 AbsBaso-0.04
___ 07:10PM   PLT COUNT-171
___ 07:10PM   ___ PTT-53.5* ___
___ 07:10PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-TR
___ 07:10PM URINE  RBC-<1 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 07:10PM URINE  MUCOUS-OCC
 
Brief Hospital Course:
___ year old female with recent history of removal of 2 basal 
cell carcinomas in ___ presenting with progressive pain 
and swelling in right lower extremity now with acute development 
of cellulitic rash overlying right tibia.
Improved on IV antibiotics.   General surgery saw her and 
performed I+D in ID with wick placement - they will see her in 
outpatient clinic.  
.
# PAF-1 inhibitor - continued warfarin
.
# Gout - allopurinol
.
# Hyperlipidemia - continued simvastatin
.
# Hypertension - continued spironolactone and bumex
.
___ ___ 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cellulitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted for a rash on your leg.  To treat this, we 
performed drainage of the area, and started you on IV 
antibiotics.   Please continue oral antibiotics (Augmentin) - 
see prescription attached.   You will also need to be seen by 
surgery in about 10 days to get this area re-examined.   Please 
call ___ on ___ to get this appointment scheduled 
for approximately 10 days from now.
 
Followup Instructions:
___